US04241072
A. N-(2-dimethylaminoethyl)-N-(5-methyl-3-isoxazolyl)acetamide
The reaction is run under a nitrogen atmosphere. To a stirred solution of 14.0 g. (0.10 mole) of N-(5-methyl-3-isoxazolyl)acetamide in 100 ml. of dry dimethyl formamide is added 4.3 g. (0.10 ml.) of the 56% sodium hydride suspension. An immediate reaction occurs and solids begin to separate (temperature rises to 55° C.). Then 15.8 g. (0.11 mole) of 2-dimethylaminoethyl chloride hydrochloride is added portionwise along with an additional 4.3 g. (0.11 mole) of sodium hydride (temperature rises to 75°-85° C.). The mixture is stirred for 15 minutes until the temperature begins to fall and is then heated on the steam bath for 28 hours. The dark mixture is filtered to remove precipitated salts, and the dark filtrate is concentrated under reduced pressure at 80°-90° C. This affords 21.7 g. of dark liquid which is dissolved in 150 ml. of ether, filtered through charcoal and concentrated to give 19.0 g. of pale yellow liquid which is used as is in the next step.

reactant | N-(5-methyl-3-isoxazolyl)acetamide | 0.10 mole | CC1=CC(=NO1)NC(C)=O | C6H8N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 0.11 mole | Cl.CN(CCCl)C
reactant | sodium hydride | 0.11 mole | [H-].[Na+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | N-(2-dimethylaminoethyl)-N-(5-methyl-3-isoxazolyl)acetamide | CN(CCN(C(C)=O)C1=NOC(=C1)C)C | C10H17N3O2
